US07566712B2
To a cooled solution of 6-{4-[6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-yl-amine (50 mg, 0.103 mmol) in DCM add methanesulfonic anhydride (22 mg, 0.125 mmol). Stir the solution at room temperature for 5 hours. Wash with water, dry the solution (Na2SO4), and concentrate under reduced pressure. Purify the residue by flash column chromatography eluting with EtOAc:Hexanes (1:4) to afford N-(6-{4-[6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-yl)-methanesulfonamide as a solid. 1H NMR (300 MHz, CDCl3): δ 1.30 (m, CH3); 1.72 (m, 1H, CH2CH2); 1.91 (m, 1H, CH2CH2); 2.06 (m, 2H, CH2CH2); 2.35 (s, 3H, Ar—CH3); 3.01 (s, 3H, CH3SO2); 3.24 (m, 4H); 3.67 (m, 2H); 3.80 (m, 4H); 4.34 (m, 1H); 6.25 (s, 1H, Ar—H); 6.34 (s, 1H, Ar—H); 7.18 (m, 1H); 7.48 (d, J=2.4 Hz, 1H); 7.89 (m, 1H); 8.03 (m, 1H); 8.07 (m, 1H).

reactant | 6-{4-[6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-yl-amine | 0.103 mmol, 50 mg | ClC=1C=C(C=CC1F)C1=CC(=NC(=N1)N1C(CCC1)C)N1CCN(CC1)C1=C(C=C(C=N1)N)C | C25H29ClFN7
reactant | methanesulfonic anhydride | 0.125 mmol, 22 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(6-{4-[6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-yl)-methanesulfonamide | ClC=1C=C(C=CC1F)C1=CC(=NC(=N1)N1C(CCC1)C)N1CCN(CC1)C1=C(C=C(C=N1)NS(=O)(=O)C)C | C26H31ClFN7O2S
